US05547962
Ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methyl-5-nitro-4-oxoquinoline-3-carboxylate
To a solution of 10.0 g of ethyl 3-cyclopropylamino-2-(2,4,5-trifluoro-3-methyl-6-nitrobenzoyl)acrylate and 0.1 g of 18-crown-6-ether in 100 ml of tetrahydrofuran, 8.04 g of potassium carbonate was added, and then the mixture was stirred at room temperature for 23 hours. The deposited crystals were collected by filtration and washed with tetrahydrofuran, water and acetone to give 8.56 g of the desired compound. Recrystallization from N,N-dimethylformamide gave colorless needles, which were identified as the compound of Example 5.

reactant | ethyl 3-cyclopropylamino-2-(2,4,5-trifluoro-3-methyl-6-nitrobenzoyl)acrylate | 10.0 g | C1(CC1)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1[N+](=O)[O-])F)F)C)F)=O | C16H15F3N2O5
reactant | potassium carbonate | 8.04 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | 18-crown-6-ether | 0.1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | Ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methyl-5-nitro-4-oxoquinoline-3-carboxylate | 8.56 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)C)F)F)[N+](=O)[O-])=O)C(=O)OCC | C16H14F2N2O5
